US06825212B2
Preparation of 4-Nitro-3-[(phenylsulfonyl)methyl]-pyridine-N-oxide
Adapting the procedure of Makosza, et al, Liebigs Ann. Chem., 1984, 8-14, a stirred mixture of 4-nitro-pyridine-N-oxide (1.40 g, 10.0 mmol) and chloromethylphenylsulfone (1.92 g, 10.0 mmol) in DMSO (25 mL) in a cold water bath is treated with a solution of KOH (4.0 g, 71 mmol) in DMSO, stirred for 45 min, poured into 1.0 M hydrochloric acid and water and extracted with CH2Cl2. The aqueous phase is filtered and the filtercake is dried in vacuo to afford the title compound, 1.20 g (41% yield). The organic extracts are combined, dried over MgSO4 and concentrated in vacuo. The resultant wet solid is heated in boiling ethanol:water (4:1) and filtered. The filtrate is cooled, concentrated and filtered. This filtercake is dried in vacuo to afford an additional portion of the title compound, 0.967 g (74% total yield), mp 219-220° C., identified by mass spectral and HNMR analyses.

reactant | 4-nitro-pyridine-N-oxide | 10.0 mmol, 1.40 g | [N+](=O)([O-])C1=CC=[N+](C=C1)[O-] | C5H4N2O3
reactant | chloromethylphenylsulfone | 10.0 mmol, 1.92 g | ClCS(=O)(=O)C1=CC=CC=C1 | C7H7ClO2S
reactant | KOH | 71 mmol, 4.0 g | [OH-].[K+]
reactant | hydrochloric acid | 1.0 M | Cl | ClH
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-Nitro-3-[(phenylsulfonyl)methyl]-pyridine-N-oxide | 41% yield | [N+](=O)([O-])C1=C(C=[N+](C=C1)[O-])CS(=O)(=O)C1=CC=CC=C1 | C12H10N2O5S
